US07348449B2
Synthesis of 5-(8,8-Dimethyl-5-p-tolyl-7,8-dihydro-2-naphthylselanyl)-3-methylpent-2-en-4-ynoic acid
In a manner similar to that of Example 1g, by reacting 0.23 g (0.5 mmol) of methyl 5-(8,8-dimethyl-5-p-tolyl-7,8-dihydro-2-naphthylselanyl)-3-methylpent-2-en4-ynoate with 0.23 g (5.5 mmol) of lithium hydroxide monohydrate, a pale yellow solid is obtained (0.05 g; yield=23%; m.p.=166° C.).

reactant | methyl 5-(8,8-dimethyl-5-p-tolyl-7,8-dihydro-2-naphthylselanyl)-3-methylpent-2-en4-ynoate | 0.5 mmol, 0.23 g | CC1(CC=C(C=2C=CC(=CC12)[Se]C#CC(=CC(=O)OC)C)C1=CC=C(C=C1)C)C | C26H26O2Se
reactant | lithium hydroxide monohydrate | 5.5 mmol, 0.23 g | O.[OH-].[Li+]
product | 5-(8,8-Dimethyl-5-p-tolyl-7,8-dihydro-2-naphthylselanyl)-3-methylpent-2-en-4-ynoic acid | CC1(CC=C(C=2C=CC(=CC12)[Se]C#CC(=CC(=O)O)C)C1=CC=C(C=C1)C)C | C25H24O2Se
